US08486953B2
Methyl 4-(4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylate
4-Fluoro-2-(tetrahydro-2H-pyran-4-yloxy)aniline (3.47 g, 16.4 mmol), methyl 4-chloro-5-methylthieno[2,3-d]pyrimidine-6-carboxylate (3.99 g, 16.4 mmol) and para-toluene sulfonic acid (0.313 g, 1.64 mmol) were heated at reflux in anhydrous 1,4-dioxane (30 mL) for 1.5 hours. The solution was cooled to ambient temperature, the precipitate collected and washed with cold 1,4-dioxane to yield the title compound as yellow solid (6.17 g, 90%).

reactant | 4-Fluoro-2-(tetrahydro-2H-pyran-4-yloxy)aniline | 16.4 mmol, 3.47 g | FC1=CC(=C(N)C=C1)OC1CCOCC1 | C11H14FNO2
reactant | methyl 4-chloro-5-methylthieno[2,3-d]pyrimidine-6-carboxylate | 16.4 mmol, 3.99 g | ClC=1C2=C(N=CN1)SC(=C2C)C(=O)OC | C9H7ClN2O2S
reactant | para-toluene sulfonic acid | 1.64 mmol, 0.313 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | Methyl 4-(4-fluoro-2-(tetrahydro-2H-pyran-4-yloxy)phenylamino)-5-methylthieno[2,3-d]pyrimidine-6-carboxylate | 6.17 g, 90% | FC1=CC(=C(C=C1)NC=1C2=C(N=CN1)SC(=C2C)C(=O)OC)OC2CCOCC2 | C20H20FN3O4S
